US06333336B1
c) 3,5-Dihydro-3-oxo-2-phenyl-2H-pyrazolo[4,3-c]pyridine-7-carboxylic acid
A mixture of 3,5-dihydro-3-oxo-2-phenyl-2H-pyrazolo[4,3-c]pyridine-7-carboxylic acid ethyl ester (0.9522 g, 3.36 mmol) in 1N aqueous NaOH (16 ml, 16.0 mmol) was stirred at room temperature for 3.25 h. The mixture was filtered, and the filtrate was neutralised to pH 5 by the addition of 5N aqueous HCl (3 ml). The resulting solid was collected by filtration, washed with water, then hexane, and dried under vacuum at 70° C. to leave 0.6498 g (76%) of the title compound as an orange solid; mp 287-302° C.; 1H NMR (360 MHz, DMSO-d6) δ7.18 (1H, t, J 7.4 Hz), 7.44 (2H, t, J 7.5 Hz), 8.12 (1H, s), 8.17 (2H, d, J 7.6 Hz), 8.56 (1H, s), 12.66 (1H, br s); MS (ES+) m/z 256 [MH]+. Anal. found: C, 59.81; H, 3.49; N, 16.27. C13H9N3O3.0.3H2O requires: C, 59.91; H, 3.71; N, 16.12%.

reactant | 3,5-dihydro-3-oxo-2-phenyl-2H-pyrazolo[4,3-c]pyridine-7-carboxylic acid ethyl ester | 3.36 mmol, 0.9522 g | C(C)OC(=O)C=1C=2C(=CNC1)C(N(N2)C2=CC=CC=C2)=O | C15H13N3O3
reactant | NaOH | 16.0 mmol, 1N, 16 ml | [OH-].[Na+]
product | 3,5-Dihydro-3-oxo-2-phenyl-2H-pyrazolo[4,3-c]pyridine-7-carboxylic acid | 0.6498 g, 76% | O=C1N(N=C2C1=CNC=C2C(=O)O)C2=CC=CC=C2 | C13H9N3O3
